US06441181B1
5-Bromo-2-(2,5-dimethylpyrrol-1-yl)-pyridine
To a solution of 2-amino-5-bromopyridine (89.87 g, 0.5194 mol) in toluene (500 mL) was added 2,5-hexanedione (85.0 mL, 0.724 mol). The reaction flask was equipped with a Dean-Stark apparatus and the solution heated to reflux for 14 h. The cooled reaction solution was extracted with H2O (2×200 mL). The organic layer was added directly to a plug of SiO23″l×2″w and eluted with toluene (250 mL). This treatment removes a significant amount of color from the crude product. The resulting eluent was concentrated to a light amber oil, which solidified upon cooling to provide 128.76 g (99%) of the title compound.

reactant | 2-amino-5-bromopyridine | 0.5194 mol, 89.87 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 2,5-hexanedione | 0.724 mol, 85.0 mL | CC(CCC(C)=O)=O | C6H10O2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-2-(2,5-dimethylpyrrol-1-yl)-pyridine | 128.76 g, 99% | BrC=1C=CC(=NC1)N1C(=CC=C1C)C | C11H11BrN2
